US09353108B2
J) Ethyl 5-oxo-6-(piperidin-4-yl)-2-propyl-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylate dihydrochloride monohydrate
Ethyl 6-(1-(tert-butoxycarbonyl)piperidin-4-yl)-5-oxo-2-propyl-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylate (14.9 g) was added to 2M hydrogen chloride (ethanol solution, 167 mL) at room temperature. The mixture was stirred for 4 hours. Diisopropyl ether (1.00 L) was added to the reaction mixture. The mixture was stirred for 30 minutes. The precipitate was collected by filtration, washed with diisopropyl ether, dried under reduced pressure to give the title compound (13.7 g).

reactant | Ethyl 6-(1-(tert-butoxycarbonyl)piperidin-4-yl)-5-oxo-2-propyl-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylate | 14.9 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(C=2C=C(C(=NC2CC1)CCC)C(=O)OCC)=O | C24H35N3O5
reactant | hydrogen chloride | 2M, 167 mL | Cl | ClH
reactant | Diisopropyl ether | 1.00 L | C(C)(C)OC(C)C | C6H14O
product | Ethyl 5-oxo-6-(piperidin-4-yl)-2-propyl-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylate dihydrochloride monohydrate | 13.7 g | O.Cl.Cl.O=C1C=2C=C(C(=NC2CCN1C1CCNCC1)CCC)C(=O)OCC | InChI=1S/C19H27N3O3.2ClH.H2O/c1-3-5-16-15(19(24)25-4-2)12-14-17(21-16)8-11-22(18(14)23)13-6-9-20-10-7-13;;;/h12-13,20H,3-11H2,1-2H3;2*1H;1H2
